US05026714
Methyl 1-ethyl-2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate
50 mmol of methyl 2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate are dissolved in 100 ml of anhydrous tetrahydrofuran, and 50 mmol of sodium hydride are added. After 10 minutes at room temperature, 55 mmol of ethyl iodide are added, and the mixture is boiled under reflux for 1 hour. The mixture is evaporated down, after which the residue is taken up with CH2Cl2, the solution is washed with water, dried and evaporated down, and the residue is recrystallized.

reactant | methyl 2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate | 50 mmol | CC1=C(C(C2=C(N1)COC2=O)C2=C(C=CC=C2)C(F)(F)F)C(=O)OC | C17H14F3NO4
reactant | sodium hydride | 50 mmol | [H-].[Na+]
reactant | ethyl iodide | 55 mmol | C(C)I | C2H5I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl 1-ethyl-2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate | C(C)N1C2=C(C(C(=C1C)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F)C(OC2)=O | C19H18F3NO4
